US09416135B2
PdCl2(PPh3)2 (277 mg, 0.38 mmol) and CuI (73 mg, 0.38 mmol) were added to a solution of N-(4-(((tert-butyldiphenylsilyl)oxy)methyl)-2-iodo-5-(methylsulfonyl)phenyl)methanesulfonamide (2.45 g, 3.8 mmol) in THF (20 mL) and Et3N (10 mL). The mixture was purged with nitrogen for 10 mins followed by addition of 4-methylpent-1-yn-3-ol (745 mg, 7.6 mmol) and stirred at 65° C. for 8 h. The reaction mixture was diluted with EtOAc (50 mL) and washed with 1N HCl (50 mL). The organic layer was separated, and the aqueous layer was extracted with EtOAc (3×50 mL). The combined organic solution was washed with brine, dried over anhydrous Na2SO4, filtered and concentrated under reduced pressure. The residue was purified by flash chromatography over silica gel eluting with EtOAc/hexanes (3/7) to provide 1-(5-(((tert-butyldiphenylsilyl)oxy)methyl)-1,6-bis(methylsulfonyl)-1H-indol-2-yl)-2-methylpropan-1-ol (2.1 g, 90% yield). LC-MS m/z 614 [M+H]+. 1H NMR (400 MHz, CDCl3): δ 8.68 (s, 1H), 7.90 (s, 1H), 7.71-7.67 (s, 4H), 7.46-7.35 (m, 6H), 6.77 (s, 1H), 5.21 (d, J=3.2 Hz, 2H), 6.94 (t, J=6.8 Hz, 1H), 3.22 (s, 3H), 2.90 (s, 3H), 2.61 (d, J=6.8 Hz, 1H), 2.37-2.32 (m, 1H), 1.12 (s, 9H), 1.05 (d, J=6.8 Hz, 3H), 1.03 (d, J=6.8 Hz, 3H). 13C NMR (100 MHz, CDCl3): δ 147.25, 135.54, 135.28, 135.00, 133.66, 133.00, 132.89, 129.96, 127.85, 121.68, 115.96, 108.69, 72.30, 62.98, 44.33, 41.59, 32.88, 26.89, 20.23, 19.30, 17.61.

reactant | N-(4-(((tert-butyldiphenylsilyl)oxy)methyl)-2-iodo-5-(methylsulfonyl)phenyl)methanesulfonamide | 3.8 mmol, 2.45 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC1=CC(=C(C=C1S(=O)(=O)C)NS(=O)(=O)C)I | C25H30INO5S2Si
reactant | 4-methylpent-1-yn-3-ol | 7.6 mmol, 745 mg | CC(C(C#C)O)C | C6H10O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | Et3N | 10 mL | CCN(CC)CC | C6H15N
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
catalyst | PdCl2(PPh3)2 | 0.38 mmol, 277 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | CuI | 0.38 mmol, 73 mg | [Cu]I
product | 1-(5-(((tert-butyldiphenylsilyl)oxy)methyl)-1,6-bis(methylsulfonyl)-1H-indol-2-yl)-2-methylpropan-1-ol | 2.1 g, 90% yield | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC=1C=C2C=C(N(C2=CC1S(=O)(=O)C)S(=O)(=O)C)C(C(C)C)O | C31H39NO6S2Si
